US04736031
A solution of 15 g of methyl 3-(4-methoxy-2-methoxy-carbonylmethyloxyphenyl)propionate in 200 ml of toluene is added dropwise to a suspension of 5.6 g of 60% oily sodium hydride in 200 ml of toluene to which 0.4 ml of tert-butanol is added, for a period of 8 hours with heating under refluxing. The reaction mixture is heated under refluxing for 30 minutes and allowed to stand overnight, and then poured into ice water containing 10 ml of acetic acid. The organic layer is separated, washed with water, dried and evaporated under reduced pressure. The residue is purified by column chromatography on silica gel (eluant: hexane:ethyl acetate=4:1) to give 9.5 g of methyl 8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate as a colorless oil. A mixture of 7.4 g of methyl 8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate, 10.9 g of 1-bromo-3-chloropropane, 1.5 g of potassium iodide, 10 g of anhydrous potassium carbonate and 300 ml of acetonitrile is heated under refluxing with stirring for 5 hours. After cooling, the inorganic substances are filtered off and the filtrate is concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (eluant: hexane:ethyl acetate=8:1) to give 9 g of methyl 2-(3-chloropropyl)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate as an oil. In 100 ml of methanol is dissolved 9 g of methyl 2-(3-chloropropyl)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate, and 0.6 g of sodium borohydride is added in small portions to the solution under ice-cooling with stirring. The reaction mixture is concentrated under reduced pressure, and the residue is treated with water and extracted with ethyl acetate. The organic layer is washed with water, dried and evaporated under reduced pressure, and the residue is purified by column chromatography on silica gel (eluant: hexane:ethyl acetate=3:1) to give 3.3 g of methyl trans-2-(3-chloropropyl)-3-hydroxy-8-methoxy-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate as a colorless oil from the first fraction eluted.

reactant | methyl 8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate | 7.4 g | COC1=CC2=C(CCC(C(O2)C(=O)OC)=O)C=C1 | C13H14O5
reactant | 1-bromo-3-chloropropane | 10.9 g | BrCCCCl | C3H6BrCl
reactant | potassium iodide | 1.5 g | [I-].[K+]
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | methyl 2-(3-chloropropyl)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzoxepin-2-carboxylate | 9 g | ClCCCC1(OC2=C(CCC1=O)C=CC(=C2)OC)C(=O)OC | C16H19ClO5
